US06713650B2
To a solution of N-cyclohexylaniline (100 mg, 0.56 mmol) in tetrahydrofuran (4 ml) at −78° C. was added LiHMDS (1 ml of a 1M solution in tetrahydrofuran) dropwise. The solution was allowed to warm to 0° C., then recooled to −78° C., and a solution of 2-chloro-N-(1,3,3-trimethylbicyclo[2,2,1]hept-2-yl)acetamide (124 mg, 0.56 mmol) in tetrahydrofuran (1 ml) added dropwise. The mixture was allowed to warm to room temperature, and was stirred for 1 hour. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over magnesium sulfate. The ethyl acetate solution was absorbed onto silica gel, which was eluted with 3% methanol/methylene chloride, to yield 2-(cyclohexylphenylamino)-N-(1,3,3-trimethylbicyclo[2.2.1]hept-2-yl)acetamide.

reactant | N-cyclohexylaniline | 0.56 mmol, 100 mg | C1(CCCCC1)NC1=CC=CC=C1 | C12H17N
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-chloro-N-(1,3,3-trimethylbicyclo[2,2,1]hept-2-yl)acetamide | 0.56 mmol, 124 mg | ClCC(=O)NC1C2(CCC(C1(C)C)C2)C | C12H20ClNO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-(cyclohexylphenylamino)-N-(1,3,3-trimethylbicyclo[2.2.1]hept-2-yl)acetamide | C1(CCCCC1)N(CC(=O)NC1C2(CCC(C1(C)C)C2)C)C2=CC=CC=C2 | C24H36N2O
